US07105517B2
N-{4-[2-(1-Dimethylamino-ethylimino)-4-phenyl-thiazol-5-yl]-pyrimidin-2-yl}-N-phenyl-amine
A suspension of [4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-phenyl-amine (0.28 g, 0.81 mmol) in dimethylacetamide dimethylacetal (0.22 g, 1.62 mmol) and dimethylformamide (10 ml) is heated at 140° C. for 4 hours. After distilling off all volatile compounds the residue is purified by chromatography on silicagel (eluent: ethyl acetate/hexane) to give in form of a yellow powder, m.p. 196–197° C.

reactant | [4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-phenyl-amine | 0.81 mmol, 0.28 g | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=CC=C1 | C19H15N5S
reactant | dimethylacetamide dimethylacetal | 1.62 mmol, 0.22 g | COC(C)(N(C)C)OC | C6H15NO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-{4-[2-(1-Dimethylamino-ethylimino)-4-phenyl-thiazol-5-yl]-pyrimidin-2-yl}-N-phenyl-amine | CN(C(C)N=C1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=CC=C1)C | C23H24N6S
